data/mechanisms/records/IMS8-EQ8.81a.json
{"mechanism_id": "IMS8-EQ8.81a", "species": [{"species_id": "methyl_6_phenylhexanoate_alkoxy_O_ionized", "mapped_smiles": "[cH:21]1[cH:22][cH:23][cH:24][cH:25][c:20]1[CH:6]([1H:10])[CH:5]([1H:11])[CH2:4][CH2:3][CH2:2][C:1](=[O:7])[O+:8][CH3:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_benzylic_radical_O_protonated_ester", "mapped_smiles": "[cH:21]1[cH:22][cH:23][cH:24][cH:25][c:20]1[CH:6][CH:5]([1H:11])[CH2:4][CH2:3][CH2:2][C:1](=[O:7])[O+:8]([1H:10])[CH3:9]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "phenyl_hexenal_radical_cation", "mapped_smiles": "[cH:21]1[cH:22][cH:23][cH:24][cH:25][c:20]1[CH:6]=[CH:5][CH2:4][CH2:3][CH2:2][C:1]([1H:11])=[O+:7]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "methanol_neutral", "mapped_smiles": "[O:8]([1H:10])[CH3:9]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methyl_6_phenylhexanoate_alkoxy_O_ionized"]}, {"state_id": "state_intermediate", "species_ids": ["distonic_benzylic_radical_O_protonated_ester"]}, {"state_id": "state_products", "species_ids": ["phenyl_hexenal_radical_cation", "methanol_neutral"]}], "steps": [{"step_id": "step_rH_epsilon_H_to_alkoxy_O", "from_state": "state_precursor", "to_state": "state_intermediate", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [8]}, "target": {"type": "bond", "atom_maps": [8, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 10]}, "target": {"type": "bond", "atom_maps": [8, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 10]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rd_methanol_displacement", "from_state": "state_intermediate", "to_state": "state_products", "step_class": "radical_site_displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 11]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 11]}, "target": {"type": "bond", "atom_maps": [1, 11]}, "electron_count": 1}, {"source": {"type": "lone_pair", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [1, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 8]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_epsilon_H_to_alkoxy_O", "support_type": "textbook_proposed", "locator": {"page": 197, "equation": "8.81", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.75, "curator_note": "First half of Equation 8.81 (arrow labelled 'rH'). The drawn substrate is a fatty-acid methyl ester carrying a phenyl group at C-6 (the running text: 'very useful for identifying substitution at C-6 in fatty-acid methyl esters'); as drawn the phenyl-bearing carbon also carries an explicit H and no further chain, i.e. methyl 6-phenylhexanoate, and that concrete instantiation is what is encoded here. The molecular ion is drawn n-ionized on the ESTER ALKOXY oxygen ('+.' printed on the O of OCH3), not on the carbonyl oxygen, and the benzylic epsilon-H is transferred to it through the large (7-membered) ring transition state that the page draws; the text calls this 'an epsilon-H rearrangement'. Book draws 2 arcs; moves <1,2> are drawn (a fishhook from the O+. odd electron pointing at the migrating H, and a fishhook from the benzylic C-H bond pointing at the O), move <3> is an implicit homolysis hook required for electron balance (not drawn on the page) - the second C-H electron stays on C-6, which is why the next structure is drawn with a '.' on the benzylic carbon. Product is the distonic ion: benzylic radical plus a closed-shell trialkyl/protonated oxonium O+(H)(CH3)C(=O)."}, {"evidence_id": "ev_step_rd", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rd_methanol_displacement", "support_type": "textbook_proposed", "locator": {"page": 197, "equation": "8.81", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.6, "curator_note": "Second half of Equation 8.81 (arrow labelled 'rd', McLafferty's radical-site displacement). Net change read off the two drawn structures: the benzylic radical closes to the C5=C6 double bond, the H on C-5 migrates to the ester carbon C-1 through a six-membered arrangement, and the O-protonated methoxy group leaves as neutral CH3OH, so the charge and the odd electron end up on the (former) carbonyl oxygen of the drawn (M - CH3OH)+. enal ion. Book draws 5 arcs; moves <1,2,3,4,5> are ALL drawn - no implicit hook is needed. Arc-by-arc: <1> fishhook from the '.' on C-6 to the C5-C6 bond; <2> fishhook from the C5-H bond to the same forming pi bond; <3> long fishhook from the C5-H bond sweeping across the ring toward C-1 (the migrating H with one electron); <4> long arc drawn with its tail on/under the C1=O carbonyl bond and its head pointing at the migrating H - encoded as a nonbonding electron of the carbonyl oxygen entering the new C1-H bond, because the drawn product retains a full C=O double bond and puts '+.' on that oxygen; taking arc <4>'s tail literally as the C=O pi pair would reduce the C=O bond order, which the drawn product does not show; <5> arrow with a solid (two-barbed) head from the C1-O(methyl) bond to that oxygen - encoded as the full 2-electron heterolysis that the drawn CLOSED-SHELL neutral HOCH3 requires (a homolytic split would give CH3OH+.). Chemical caveat: this is a heavily concerted depiction (pi-bond formation, H migration and C-O cleavage in one step); the book gives no intermediate for it, so no intermediate state is invented here."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 206.1301, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_M_minus_CH3OH", "species_id": "phenyl_hexenal_radical_cation", "step_id": "step_rd_methanol_displacement", "observed_mz": 174.1039, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
